US08242116B2
1-Methyl-(2RS)-2-{2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyrazol-1-yl]-ethyl}piperidine
The title compound was prepared from pyrazole-4-boronic acid pinacol ester and 2-(2-chloroethyl)-1-methylpiperidine hydrochloride according to Method AC (heating to 90° C. for 6 days before addition of further 2-(2-chloroethyl)-1-methylpiperidine hydrochloride and triethylamine, then heating to 90° C. for a further 3 days) and was isolated as a brown oil (quantitative). LCMS (ES+) 320 (M+H)+, RT 1.85 minutes (Method 1).

reactant | pyrazole-4-boronic acid pinacol ester | N1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C9H15BN2O2
reactant | 2-(2-chloroethyl)-1-methylpiperidine hydrochloride | Cl.ClCCC1N(CCCC1)C
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-Methyl-(2RS)-2-{2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyrazol-1-yl]-ethyl}piperidine | CN1C(CCCC1)CCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C17H30BN3O2
